US08071779B2
5-Bromo-1-(4-methoxybenzyl)-1H-indazole
To a suspension of KOtBu (8.13 g, 72.4 mmol) in THF (60 mL) was added 5-bromo-1H-indazole (12.98 g, 65.9 mmol) in THF (60 mL). After 30 min, 4-methoxybenzyl chloride (9.38 mL, 69.2 mmol) was added (neat) and the resulting pale yellow solution was stirred 48 h. The reaction was quenched by addition of saturated NH4Cl solution, and the mixture was extracted with EtOAc. Evaporation of the organic phase followed by column chromatography of the residue on silica gel, eluting with 1/9—EtOAc/heptane, afforded the title compound, which was recrystallized from toluene/heptane (1/5) to afford the title compound as colorless cubes (7.65 g, 37%). Also recovered from the chromatography was 5-bromo-2-(4-methoxybenzyl)-2H-indazole (8.0 g, 38%)

reactant | KOtBu | 72.4 mmol, 8.13 g | CC(C)(C)[O-].[K+]
reactant | 5-bromo-1H-indazole | 65.9 mmol, 12.98 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | 4-methoxybenzyl chloride | 69.2 mmol, 9.38 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-(4-methoxybenzyl)-1H-indazole | BrC=1C=C2C=NN(C2=CC1)CC1=CC=C(C=C1)OC | C15H13BrN2O
